US07169778B2
10. 5-Amino-2-[[4-[3-(tert-butoxycarbonylamino)pyrrolidin-1-yl]phenyl]amino]-4-(cyclopentylamino)pyrimidine
Hydrogenation of 2-[[4-[3-(tert-butoxycarbonylamino)pyrrolidin-1-yl]phenyl]amino]-4-(cyclopentylamino)-5-nitropyrimidine (from Example 2(10) above) over Pd/C gave the title compound as a solid.

reactant | 2-[[4-[3-(tert-butoxycarbonylamino)pyrrolidin-1-yl]phenyl]amino]-4-(cyclopentylamino)-5-nitropyrimidine | C(C)(C)(C)OC(=O)NC1CN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1CCCC1)[N+](=O)[O-] | C24H33N7O4
catalyst | Pd/C | [Pd] | Pd
product | 5-Amino-2-[[4-[3-(tert-butoxycarbonylamino)pyrrolidin-1-yl]phenyl]amino]-4-(cyclopentylamino)pyrimidine | NC=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CC(CC1)NC(=O)OC(C)(C)C)NC1CCCC1 | C24H35N7O2
